US06506769B2
Synthesis of 2-(2,6-Dichlorophenylamino)-1,7-dimethyl-9-oxo-1,8-dihydro-imidazo[4,5-h]isoquinolin-6-yl acetic acid ethyl ester.
Prepared from 2-(2,6-dichlorophenylamino)-1,7-dimethyl-9-oxo-1,8-dihydro-imidazo[4,5-h]isoquinolin-6-yl acetic acid by refluxing in ethanol and H2SO4. Mp 280-285° C. (dec); MS(CI) 459, 461 (MH+).

reactant | 2-(2,6-dichlorophenylamino)-1,7-dimethyl-9-oxo-1,8-dihydro-imidazo[4,5-h]isoquinolin-6-yl acetic acid | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C)CC(=O)O)N1)C | C20H16Cl2N4O3
reactant | ethanol | C(C)O | C2H6O
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | 2-(2,6-Dichlorophenylamino)-1,7-dimethyl-9-oxo-1,8-dihydro-imidazo[4,5-h]isoquinolin-6-yl acetic acid ethyl ester | C(C)OC(CC1=C(NC(C=2C3=C(C=CC12)N=C(N3C)NC3=C(C=CC=C3Cl)Cl)=O)C)=O | C22H20Cl2N4O3
